US08486970B2
To a solution of 500 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[(1-trityl-1H-1,2,4-triazol-3-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 7.5 ml of methanol was added dropwise 0.25 ml of concentrated hydrochloric acid under ice-cooling, followed by stirring at room temperature for 4 hours. To the reaction solution was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) and recrystallized from ethyl acetate to obtain 282 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-(1H-1,2,4-triazol-3-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless crystal.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-[(1-trityl-1H-1,2,4-triazol-3-yl)methoxy]-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 500 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1C(CCCC1)NS(=O)(=O)C | C45H42Cl2N6O5S
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-N-(1H-1,2,4-triazol-3-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 282 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=NNC=N1)=O)C1C(CCCC1)NS(=O)(=O)C | C26H28Cl2N6O5S
